US08426449B2
Step 4: [3-(2-Methanesulfonyloxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester
[3-(2-Hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester (0.355 g, 1.0 mmol) and triethylamine (0.21 mL, 1.5 mmol) were combined in CH2Cl2 (7.2 mL) and cooled to 0° C. Methanesulfonyl chloride (0.09 mL, 1.1 mmol) was added, and the reaction was stirred for 3 hours. Some starting material was still seen by analytical LCMS, so additional methanesulfonyl chloride (0.04 mL) and triethylamine (0.07 mL) was added at 0° C., and the reaction was stirred for another 2 hours. The mixture was partitioned between CH2Cl2 and H2O, and the aqueous layer was separated and extracted twice with CH2Cl2. The combined organic layers were dried and concentrated to give the title compound.

reactant | [3-(2-Hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 1.0 mmol, 0.355 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CO)=O | C18H17F3O4
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.1 mmol, 0.09 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.04 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.07 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 7.2 mL | C(Cl)Cl | CH2Cl2
product | [3-(2-Methanesulfonyloxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)COS(=O)(=O)C)=O | C19H19F3O6S
